US03951993
Upon boiling a solution of 5.3 g of benzaldehyde and 15.9 g of 3-amino-3-ethoxyacrylic acid ethyl ester in 30 ml of alcohol for 12 hours, 2-amino-4-phenyl-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 119°C (isopropanol) is obtained.

reactant | benzaldehyde | 5.3 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3-amino-3-ethoxyacrylic acid ethyl ester | 15.9 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-amino-4-phenyl-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(N=C(C(C1C1=CC=CC=C1)C(=O)OCC)OCC)N | C19H24N2O5
